US07855297B2
By the reaction and treatment in the same manner as in Example 271 using 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.78 g) and 3-chloromethyl-6-isopropylpyridine (0.51 g) as starting materials, 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-({1-[(6-isopropylpyridin-3-yl)methyl]pyrazol-4-yl}methyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.77 g) was obtained.

reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 0.78 g | Cl.C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C=1C=NC(=CC1)C(C)C
reactant | 3-chloromethyl-6-isopropylpyridine | 0.51 g | ClCC=1C=NC(=CC1)C(C)C | C9H12ClN
product | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-({1-[(6-isopropylpyridin-3-yl)methyl]pyrazol-4-yl}methyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.77 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NN(C1)CC=1C=NC(=CC1)C(C)C)C=1C=NC(=CC1)C(C)C | C39H43N5O2
